US07608621B2
N-{[5-Hydroxy-6-(1-methylethyl)-3-oxo-2-(phenylmethyl)-2,3-dihydro-4-pyridazinyl]carbonyl}glycine
Ethyl 3-oxo-3-[1-(phenylmethyl)hydrazino]propanoate. A mixture of benzylhydrazine dihydrochloride (2.50 g, 12.8 mmol), potassium carbonate (1.77 g, 12.8 mmol), acetone (6.0 mL, 82 mmol) and ethyl acetate (30 mL) was stirred at room temperature while a solution of 1M aqueous sodium hydroxide (6.0 mL, 6.0 mmol) was added dropwise. After the addition, the mixture was stirred 0.5 h, then excess magnesium sulfate added and the mixture filtered. The filtrate was evaporated under reduced pressure and the residue azeotroped with toluene three times, then dissolved in tetrahydrofuran (50 mL). 1,8-Diazabicyclo[5.4.0]undec-7-ene (1.84 mL, 12.3 mmol) was added to the stirred solution under nitrogen at 0° C., followed by ethyl 3-chloro-3-oxopropionate (1.57 mL, 12.3 mmol) dropwise. The mixture was stirred at 0° C. for 5 min, and at room temperature for 3 h, then 1M aqueous hydrochloric acid (50 mL) added. After stirring a further 0.5 h, water (100 mL) was added and the mixture extracted with ethyl acetate. The extracts were washed with brine, dried (MgSO4), evaporated under reduced pressure and the residue chromatographed (silica gel, 1-5% methanol/dichloromethane) to give the title compound (1.60 g) as an oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.18 (t, J=7.08 Hz, 3H) 3.56 (s, 2H) 4.08 (q, J=7.16 Hz, 2H) 4.58 (s, 2H) 4.65 (s, 2H) 7.25-7.36 (m, 5H).

reactant | Ethyl 3-oxo-3-[1-(phenylmethyl)hydrazino]propanoate | O=C(CC(=O)OCC)N(N)CC1=CC=CC=C1 | C12H16N2O3
reactant | benzylhydrazine dihydrochloride | 12.8 mmol, 2.50 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | potassium carbonate | 12.8 mmol, 1.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 82 mmol, 6.0 mL | CC(=O)C | C3H6O
reactant | sodium hydroxide | 6.0 mmol, 1M, 6.0 mL | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 12.3 mmol, 1.84 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl 3-chloro-3-oxopropionate | 12.3 mmol, 1.57 mL | ClC(CC(=O)OCC)=O | C5H7ClO3
reactant | hydrochloric acid | 1M, 50 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-{[5-Hydroxy-6-(1-methylethyl)-3-oxo-2-(phenylmethyl)-2,3-dihydro-4-pyridazinyl]carbonyl}glycine | 1.60 g | OC1=C(C(N(N=C1C(C)C)CC1=CC=CC=C1)=O)C(=O)NCC(=O)O | C17H19N3O5
